US07420001B2
To 110 mg (0.48 mmol) of 5-cyano-4-methoxy-3-methyl-benzofuran-2-carboxylic acid was added 207 mg (1.2 eq) of (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester, BOP (252 mg, 1.2 eq), N,N-diisopropylethylamine (74 mg,1.2 eq) and 4 mL of DMF. The mixture was stirred at room temperature for 48 h. Brine was added and the mixture was extracted with ethyl acetate. The combined organic solution was washed with 2N HCl and water. Concentration of the organics in vacuo gave crude product, which was purified by column chromatography on silica gel to give 89 mg (32% yield) of (S)-2-{4′-[(5-cyano-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester as an off-white solid.

reactant | 5-cyano-4-methoxy-3-methyl-benzofuran-2-carboxylic acid | 0.48 mmol, 110 mg | C(#N)C=1C=CC2=C(C(=C(O2)C(=O)O)C)C1OC | C12H9NO4
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 207 mg, 1.2 eq | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C18H22N2O4S
reactant | BOP | 252 mg, 1.2 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 74 mg, 1.2 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | Brine | [Cl-].[Na+].O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-2-{4′-[(5-cyano-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester | 89 mg, 32% yield | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=C(C=C2)C#N)OC)=O | C30H29N3O7S
